US07763639B2
4-[2-METHOXY-3-(TRIFLUOROMETHOXY)PHENYL]PIPERIDINE
Preparation according to preparation 34: 4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine (1.23 g, 4.7 mmol), N,N-dimethylformamide (20 ml), sodium methoxide in methanol (30%, 2.35 ml, 13.2 mmol). Yield: 1.32 g.

reactant | 4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine | 4.7 mmol, 1.23 g | FC1=C(C=CC=C1OC(F)(F)F)C1CCNCC1 | C12H13F4NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 13.2 mmol, 2.35 ml | CO | CH4O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[2-METHOXY-3-(TRIFLUOROMETHOXY)PHENYL]PIPERIDINE | COC1=C(C=CC=C1OC(F)(F)F)C1CCNCC1 | C13H16F3NO2
